data/mechanism_extracts/ChemCommun/10.1039_d2cc02958h.json
{"doi": "10.1039_d2cc02958h", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical azidocyanation of alkene-tethered cyanohydrins via Mn-mediated azide radical addition and 1,4-nitrile migration to deliver 1,2-azidonitriles.", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of an in situ formed [Mn(II)X2N3]- complex to a Mn(III)-azide species that delivers an azidyl radical to the alkene; cathode reduces protons to H2.", "key_intermediates": [{"name": "[Mn(II)X2N3]- ate complex", "smiles": null, "role": "transient"}, {"name": "Mn(III)X2N3 azide-transfer species", "smiles": null, "role": "reactive"}, {"name": "secondary alkyl C-radical from azide addition to alkene (36)", "smiles": null, "role": "reactive"}, {"name": "cyclic iminyl radical from intramolecular nitrile cyclization (37)", "smiles": null, "role": "reactive"}, {"name": "alpha-hydroxy alkyl radical from beta-scission (38)", "smiles": null, "role": "reactive"}, {"name": "1,2-azidonitrile product (2)", "smiles": "O=C(c1ccccc1)CCC(CC#N)N=[N+]=[N-]", "role": "reactive"}], "electron_flow": "At the anode, Mn(II)/azide ate complex is oxidized to Mn(III)-N3, which transfers an azidyl radical to the alkene of the cyanohydrin to give a C-centered radical; intramolecular addition onto the pendant nitrile forms an iminyl radical that undergoes beta-scission to a ketyl-type alkyl radical, which is anodically oxidized and loses H+ to give the 1,2-azidonitrile, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclopropyl-substituted cyanohydrin (radical clock 34)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened azido-nitrile 35 obtained as sole product in 56% NMR yield, consistent with a carbon-radical intermediate after azide addition."}, {"name": "Mn(OTf)2 / TBAN3 cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "TBAN3 alone shows irreversible oxidation at ~0.97 V vs Fc/Fc+; with Mn(OTf)2 a new irreversible event appears at ~0.50 V vs Fc/Fc+, indicating formation of an oxidizable [Mn(II)X2N3]- species (Mn(II)->Mn(III))."}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Authors note azidyl radicals could in principle be generated directly by anodic oxidation of azide, but CV shows Mn(OTf)2 lowers the oxidation potential substantially, supporting a Mn-mediated inner-sphere azide-transfer pathway rather than free N3 radical from direct azide oxidation. Methodology extends to sulfonylcyanation (using NaSO2Ph) via the same radical/migration manifold and to a malononitrile-derived substrate (30 -> 31)."}
